US09388189B2
(S)-2-(1-((5-(1-(3-(Dimethylamino)propyl)-1H-pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1H-Pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (43 mg, 0.07 mmol) and 3-chloro-N,N-dimethylpropan-1-amine (47 mg, 0.39 mmol) were dissolved in DMF (3 ml) and cesium carbonate (240 mg, 0.74 mmol) was added. After stirring the mixture at 75° C. for 3.5 h, the solvent was evaporated under reduced pressure and the residue was suspended in water and extracted with dichloromethane (×3). The organic phase was successively washed with water and brine, dried over magnesium sulfate, filtered and the solvent evaporated under reduced pressure, to obtain 50 mg (70% yield) of the title compound as a brown solid. Purity 69%.

reactant | (S)-2-(1-((5-(1H-Pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.07 mmol, 43 mg | N1N=CC(=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C30H35N9O2Si
reactant | 3-chloro-N,N-dimethylpropan-1-amine | 0.39 mmol, 47 mg | ClCCCN(C)C | C5H12ClN
reactant | cesium carbonate | 0.74 mmol, 240 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (S)-2-(1-((5-(1-(3-(Dimethylamino)propyl)-1H-pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 50 mg, 70% yield | CN(CCCN1N=CC(=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)C | C35H46N10O2Si
